US09359305B2
Compound number 140 (i.e., 6-chloro-5-(2,3-dichlorophenoxy)-2-heptafluoropropylbenzimidazole) was prepared as follows. 4-chloro-5-(2,3-dichlorophenoxyl)benzene-1,2-diamine (150 mg, 0.49 mmol, 1.00 equiv), heptafluorobutanoic acid (15 mL) and hydrogen chloride (3 mL) was placed into a 100-mL round-bottom flask. The resulting solution was stirred overnight at 110° C. in an oil bath. The reaction mixture was cooled to room temperature. The resulting solution was extracted with 3×50 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×100 mL of brine. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:1). The crude product was re-crystallized from EA/hexane in the ratio of 1/1. This resulted in 63.4 mg (27%) of 6-chloro-5-(2,3-dichlorophenoxy)-2-heptafluoropropylbenzimidazole as a white solid.

reactant | 4-chloro-5-(2,3-dichlorophenoxyl)benzene-1,2-diamine | 0.49 mmol, 150 mg, 1.00 equiv | ClC=1C=C(C(=CC1OC1=C(C(=CC=C1)Cl)Cl)N)N | C12H9Cl3N2O
reactant | heptafluorobutanoic acid | 15 mL | FC(C(C(C(=O)O)(F)F)(F)F)(F)F | C4HF7O2
reactant | hydrogen chloride | 3 mL | Cl | ClH
product | 6-chloro-5-(2,3-dichlorophenoxy)-2-heptafluoropropylbenzimidazole | ClC=1C(=CC2=C(N=C(N2)C(C(C(F)(F)F)(F)F)(F)F)C1)OC1=C(C(=CC=C1)Cl)Cl | C16H6Cl3F7N2O
